US08003647B2
4-(6-Chloro-3-cyano-5-trifluoromethanesulfonyloxyindol-1-yl)benzoic acid ethyl ester
To a solution of 4-(6-chloro-3-cyano-5-hydroxyindol-1-yl)benzoic acid ethyl ester (0.079 g) and pyridine (0.056 mL) in dichloromethane (2.3 mL) was added trifluoromethanesulfonic anhydride (0.058 mL) under ice cooling, and this mixture was stirred at the same temperature for 1 hour. To this reaction mixture was added 1 mol/L hydrochloric acid (0.370 mL) and water. After separating organic layer, this organic solvent was removed under reduced pressure to give the title compound (0.103 g).

reactant | 4-(6-chloro-3-cyano-5-hydroxyindol-1-yl)benzoic acid ethyl ester | 0.079 g | C(C)OC(C1=CC=C(C=C1)N1C=C(C2=CC(=C(C=C12)Cl)O)C#N)=O | C18H13ClN2O3
reactant | pyridine | 0.056 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 0.058 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | hydrochloric acid | 1 mol/L, 0.370 mL | Cl | ClH
solvent | dichloromethane | 2.3 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-(6-Chloro-3-cyano-5-trifluoromethanesulfonyloxyindol-1-yl)benzoic acid ethyl ester | 0.103 g | C(C)OC(C1=CC=C(C=C1)N1C=C(C2=CC(=C(C=C12)Cl)OS(=O)(=O)C(F)(F)F)C#N)=O | C19H12ClF3N2O5S
